Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been stressed." 

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Briefly, this is a ___ year old single woman, with reported 
history of depression, self injurious behaviors with two prior 
psychiatric hospitalizations at ___ at age ___, unremarkable past 
medical history, who presented to ___ ED following an episode 
of cutting with worsening depression, suicidal ideation in the 
setting of a recent break up and after leaving a suicide note.
. 
Upon initial interview with Dr. ___, patient reported 
she was not feeling as if she was where she wanted to be in 
life, having recently broken up with her girlfriend of ___ years. 
She is currently with a boyfriend, who reportedly has a drinking 
problem, and she denied an abusive relationship. Ms. ___ 
reported that over the past few months she has been feeling 
hopeless, worthless, with difficulty sleeping. Denied suicidal 
ideation, but did state she cut herself with a box cutter to 
"see the scars." Reported that prior to the night of 
presentation, the last time she cut herself was around age ___. 
. 
On the night of presentation, patient stated she was in her 
boyfriend's apartment, alone, smoking hookah, listening to sad 
music and reflecting feeling that she may not be worthy enough 
to live. She wrote a good bye note to her family, "I know it 
will hurt a lot of people but I just cannot do this anymore. I 
guess we will see how things unfold in my life soon whatever 
happens, I just want my loved ones to know it was my decision. 
No one's fault." Patient also reported the scars on her arm 
represent a time she has been mistreated in her life. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints 
. 
Upon interview with Ms. ___, who was able to provide a 
relatively clear and coherent history, she stated she was here 
because "I've been grieving a relationship that ended ___ years 
ago" but was reluctant to discuss this, noting, "I don't want to 
be here... I don't like to talk about the same story over and 
over." With encouragement, she stated she had been in a 
relationship with her no ex-girlfriend for ___ years that had 
started well but later became unhealthy. Ms. ___ stated 
that upon reflection, she felt/feels "less like myself because I 
let her put me through things and I could have walked out and I
lost a lot of self respect." 
. 
Despite this, patient denied recent depressed mood and denied 
thoughts of suicide or self injury other than just prior to 
admission. Reported good sleep and stated she continues to work 
at ___, noting work was going "fine." Denied 
difficulties with energy, concentration, or appetite on my
examination. Denied suicidal ideation. 
. 
On night of presentation, patient reported she was alone in her 
boyfriend's apartment listening to music when ___ and ___ 
"All my life" came on, which triggered memories of her 
ex-girlfriend, causing her to cry. Patient stated she then put 
it on repeat on YouTube "and it got me thinking about all the 
things I got put through." She stated she had been journaling 
and then
started writing down suicidal statements in the journal but 
denied this was a suicide note or that she was planning on 
killing herself. Patient stated that she as texting her 
boyfriend, who "knows me well... he knew there was something
wrong and I told him I was depressed and stressed out... he put 
two and two together." 
. 
Of note, patient denies her boyfriend is abusive, noting the 
argue verbally at times but states they "only get physical when 
we are drunk-- we push each other and I know how to get to him." 

. 
On psychiatric review of systems, patient denied history of 
manic symptoms including decreased need for sleep, increased 
activity, rapid speech, grandiosity. Denied history of psychosis 
including AVH, paranoia, thought insertion or broadcasting on my 
examination. Denied current anxiety on my examination, panic 
attacks. Reported she drinks socially, denied illicit drug use. 
. 

 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
Hospitalizations: CHA x2 around age ___ for cutting
Current treaters and treatment: denies
Medication and ECT trials: denies; was offered Prozac at age ___
or ___ but parents advised her not to take it
Self-injury: history of cutting at age ___ denies prior SI or
SA
Harm to others: denies
Access to weapons: denies

Past medical history: Per Dr. ___ (___), confirmed
with patient and updated as relevant:
Asthma

 
Social History:
___
SOCIAL/FAMILY HISTORY: ___
Family History:
Family psychiatric history:
Denies, though notes at one time her mother had difficulties 
with alcohol. No family history of suicide. 
 
Physical Exam:
VS: T: 98.2, BP: 106/73, HR: 68, R: 18, O2 sat: 97%% on RA

General: Young woman in NAD. Well-nourished, well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema. On her L arm, 
there
is an area about 5 inches long with multiple superficial cuts,
which has been dressed in gauze
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: Initially ___ throughout bilaterally, 
except
for grip strength ___ on L ___ on R), patient then notes her L
side is weaker than the right at baseline and when retested is
___ throughout on LUE strength testing. ___ strength in lower
extremities bilaterally. Coordination: Normal on finger to nose
test on R, no dysmetria or tremor noted on L though patient
reports difficulty with weakness on her L side. 
Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Executive function (go-no go, Luria, trails, FAS): not tested
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
Behavior: Calm, cooperative, engaged, pleasant, appropriate eye
contact, no psychomotor agitation or retardation
Mood and Affect: "Stressed" / mood congruent, somewhat 
restricted
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: limited/limited

Discharge Examination: 
 
Pertinent Results:
Labs:
 ___: Na: 137
 ___: K: 3.8
 ___: Cl: 102
 ___: CO2: 25
 ___: BUN: 14
 ___: Creat: 0.8
 ___: Glucose: 99 (If fasting, 70-100 normal, >125
provisional diabetes)
 
___: WBC: 8.8
 ___: HGB: 13.6
 ___: HCT: 40.2
 ___: Plt Count: 381
 ___: Urine Glucose (Hem): NEG
 ___: Urine Protein (Hem): NEG
 ___: Urine Bilirubin (Hem): NEG
 ___: Urobilinogen: NEG
 ___: Urine Ketone (Hem): NEG
 ___: Urine Blood (Hem): NEG
 ___: Urine Nitrite (Hem): NEG
 ___: Urine Leuks (Hem): NEG
 

-Urine tox: neg
-Serum tox:  w/ APAP level of 10

___ 4:___-Spine
IMPRESSION: 
1. No acute fracture or traumatic malalignment. 

___ 01:20PM   ACETMNPHN-NEG

___ 01:20PM   ALT(SGPT)-14 AST(SGOT)-20 ALK PHOS-63 TOT 
BILI-0.7

___ 01:20PM   VIT B12-941*
___ 01:20PM   CHOLEST-152
___ 01:20PM   TRIGLYCER-77 HDL CHOL-83 CHOL/HDL-1.8 
LDL(CALC)-54
___ 01:20PM   TSH-0.84
___ 01:20PM   25OH VitD-9*
 
Brief Hospital Course:
Briefly, this is a ___ year old single woman, with reported 
history of depression, self injurious behaviors with two prior 
psychiatric hospitalizations at ___ at age ___, unremarkable past 
medical history, who presented to ___ ED following an episode 
of cutting with worsening depression, suicidal ideation in the 
setting of a recent break up and after leaving a suicide note.
. 
Upon interview, patient reports she has been doing well and 
denied recent depressed mood, neurovegetative symptoms that 
would be consistent for a major depressive episode. States that 
on day prior to presentation she had heard a song that triggered 
strong emotions regarding a dysfunctional relationship of ___ 
years and in
that setting she became emotional and started writing suicidal 
notes in her journal. Currently denying suicidal ideation or 
thoughts of self harm and mental status is notable for a well 
groomed young woman with "good" mood, euthymic affect with 
thought process that is notably linear, goal and future 
oriented. Psychiatric review of systems is completely 
unremarkable. 
. 
Diagnostically, I see no evidence for a major mood disorder such 
as MDD or BPAD, nor is there any evidence to suggest a primary 
psychotic disorder. Tox screen was negative on admission and 
patient denies using substances, I do not believe that substance 
use is contributing to her current presentation. Etiology is 
most likely secondary to an adjustment disorder and I cannot 
rule out underlying character pathology at this time. 
. 
#. Legal/Safety: patient was admitted to ___ on a 
___, upon admission she signed a conditional voluntary 
form, which was accepted. Given that she did not want to be on 
the unit, she signed a 3 day notice that expired on ___ 
given her consistent denial of suicidal ideation or thoughts of 
self harm with thought process that was notably linear, goal and 
future oriented with plan to follow up with an outpatient 
treater, she discharged on the day prior to expiration of her 3 
day notice.
. 
#. Adjustment disorder as noted above 
- Patient was compliant in attending groups and meeting with her 
treatment team, where she participated appropriately in her 
care. 
- Discussed the risks and benefits of initiation of an 
antidepressant, which she declined. 
- Patient consistently denied suicidal ideation and thoughts of 
self harm during her hospitalization reporting "good" mood with 
euthymic affect. She reported good sleep, appetite during her 
hospitalization. She was able to demonstrate insight into 
"stuffing" her emotions in order to avoid uncomfortable feelings 
and she was amenable to following up with outpatient treaters. 
. 
#. Medical: no acute medical issues during this hospitalization 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing or cough 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing or cough  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment Disorder 

 
Discharge Condition:
VS: T 97.2 BP 95/60 HR 64 RR 17 O2 99%
A/B: Appears stated age, dressed casually with excellent hygiene 
and grooming, calm, cooperative with interviewer, good eye 
contact, no psychomotor agitation or retardation noted 
S: normal rate, volume, prosody 
M: 'good'
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___